US06326369B1
Ethyl 2-(8-hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indancarboxylate
A THF solution of borane complex (1 M, 3.74 ml, 3.74 mmols) was added to a THF (9.0 ml) solution of 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoic acid (847 mg, 1.87 mmol), with cooling with ice. The reaction mixture was allowed to warm to room temperature, and then stirred for 2 hours. 1N hydrochloric acid was added and the reaction mixture was then extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out in vacuo, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain the entitled compound (713 mg) as an oil.

reactant | 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoic acid | 1.87 mmol, 847 mg | C(C)OC(=O)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCC(=O)O | C24H36O8
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 9.0 ml | C1CCOC1 | C4H8O
product | Ethyl 2-(8-hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indancarboxylate | 713 mg | OCCCCCCCCC1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)OCC | C24H38O7
